US08030318B2
(3-(N-methylaminocarbonyl)-pyridin-4-yl)-carbamic acid tert-butyl ester.
The acid, 4-tert-Butoxycarbonylamino-nicotinic acid (1.0 g, 4.20 mmol) was suspended in dry DMF (50 mL) followed by carbonyl-diimidazole (CDI, 1.36 g, 8.40 mmol). The mixture was heated to 60° C. for 1 h, then cooled. Methyl amine in THF was added to the solution followed by evaporation of the mixture. The residue was dissolved in water (20 mL)/chloroform (50 mL) and shaken then the layers separated. The aqueous layer was extracted further with chloroform (3×50 mL) and the combined organic extracts dried (MgSO4) and evaporated to give a yellow oily solid. Silica gel chromatography (CH2Cl2, 0-15% MeOH gradient) gave the desired product, (3-(N-methylaminocarbonyl)-pyridin-4-yl)-carbamic acid tert-butyl ester, as a yellow solid.

reactant | 4-tert-Butoxycarbonylamino-nicotinic acid | 4.20 mmol, 1.0 g | C(C)(C)(C)OC(=O)NC1=CC=NC=C1C(=O)O | C11H14N2O4
reactant | carbonyl-diimidazole | 8.40 mmol, 1.36 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | Methyl amine | CN | CH5N
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
product | (3-(N-methylaminocarbonyl)-pyridin-4-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=NC=C1)C(=O)NC)=O | C12H17N3O3
